US07943619B2
6-(5-Methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (tetrahydro-pyran-4-yl)-amide
A solution of trimethylaluminium (2 M in toluene, 600 μL, 1.2 mmol) was added dropwise (exothermic) to a solution of 4-aminotetrahydropyran (121 mg, 1.2 mmol) in dioxane (6 mL) and the resulting mixture was stirred at room temperature for 1 h. Then a solution of 6-(5-methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid ethyl ester (102 mg, 0.3 mmol) in dioxane (3 mL) was added. The resulting mixture was heated at 85-95° C. for 5 h, cooled to room temperature, poured into a sodium potassium tartrate solution and extracted with ethyl acetate which was then washed with brine, dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:1) afforded the title compound (62 mg, 52%) which was obtained as a white solid after recrystallisation from ethylacetate:heptane. MS: m/e=396.3 [M+H]+.

reactant | trimethylaluminium | 1.2 mmol, 2 M, 600 μL | C[Al](C)C
reactant | 4-aminotetrahydropyran | 1.2 mmol, 121 mg | NC1CCOCC1 | C5H11NO
reactant | 6-(5-methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid ethyl ester | 0.3 mmol, 102 mg | C(C)OC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=NC=CC=C1 | C17H16N4O4
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 6-(5-Methyl-3-pyridin-2-yl-isoxazol-4-ylmethoxy)-pyridazine-3-carboxylic acid (tetrahydro-pyran-4-yl)-amide | 62 mg, 52% | O1CCC(CC1)NC(=O)C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=NC=CC=C1 | C20H21N5O4
